US08124778B2
1-Oxo-1-[5-(2-pyridyl)oxazol-2-yl]-7-(3-chlorophenyl)heptane (5hh).
A solution of the oxo-1-[5-(2-pyridyl)oxazol-2-yl]-7-(3-chlorophenyl)hept-6-yne (4hh, 15 mg, 0.041 mmol) in anhydrous THF (1 mL) was treated with a catalytic amount of Raney nickel (washed before use with THF). The reaction mixture was purged with H2 and stirred at 25° C. overnight. The suspension was filtered through Celite and concentrated. The crude product was dissolved in anhydrous CH2Cl2 (2 mL) and treated with Dess-Martin reagent (29 mg, 0.068 mmol). After stirring for 3 h at 25° C., the reaction mixture was quenched with saturated aqueous Na2CO3 and saturated aqueous Na2S2O3. After stirring for 15 min, the mixture was extracted with CH2Cl2. The organic layer was dried over Na2SO4, filtered and concentrated. PTLC (SiO2, 40% EtOAc-hexanes) afforded the title compound (5hh, 10 mg, 0.027 mmol, 67%) as a white solid: mp 91-92° C.; 1H NMR (CDCl3, 600 MHz) 8.68-8.66 (m, 1H), 7.89-7.86 (m, 2H), 7.82 (td, 1H, J=7.8, 1.4 Hz), 7.34-7.31 (m, 1H), 7.21-7.14 (m, 3H), 7.04 (d, 1H, J=7.5 Hz), 3.11 (t, 2H, J=7.4 Hz), 2.59 (t, 2H, J=7.4 Hz), 1.81-1.76 (m, 2H), 1.65-1.60 (m, 2H), 1.46-1.36 (m, 4H); 13C NMR (CDCl3, 125 MHz) 188.4, 157.3, 153.2, 150.1, 146.3, 144.7, 137.1, 133.9, 129.5, 128.5, 126.8, 126.6, 124.1, 120.4, 39.0, 35.5, 31.0, 28.9, 28.8, 23.8; IR (film) νmax 2930, 2856, 1698, 1601, 1575, 1505, 1470, 1426, 1385, 1285, 1081, 1035, 990, 962, 935, 783, 741, 696 cm−1; ESI-TOF m/z 369.1363 (C21H21ClN2O2+H+ requires 369.1364).

reactant | oxo-1-[5-(2-pyridyl)oxazol-2-yl]-7-(3-chlorophenyl)hept-6-yne | O=C(CCCCC#CC1=CC(=CC=C1)Cl)C=1OC(=CN1)C1=NC=CC=C1 | C21H17ClN2O2
reactant | Dess-Martin reagent | 0.068 mmol, 29 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 1-Oxo-1-[5-(2-pyridyl)oxazol-2-yl]-7-(3-chlorophenyl)heptane | 0.027 mmol, 10 mg, 67% | O=C(CCCCCCC1=CC(=CC=C1)Cl)C=1OC(=CN1)C1=NC=CC=C1 | C21H21ClN2O2
